US09416111B2
To a mixture of 5-chloro-2-iodopyrimidine (0.2 g, 0.83 mmol) and methyl trans-4-acetylcyclohexanecarboxylate (0.15 g, 0.83 mmol) in THF (4 mL) was added n-butyllithium (2.5 M in hexanes, 0.33 mL, 0.83 mmol) dropwise under a nitrogen atmosphere at −78° C. The mixture was stirred at −78° C. for 2 hours, and then quenched with saturate aqueous ammonium chloride solution. The mixture was extracted with ethyl acetate, and the combined organic layers were dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by preparative TLC to afford methyl trans-4-[1-(5-chloropyrimidin-2-yl)-1-hydroxyethyl]cyclohexanecarboxylate. MS ESI calc'd for C14H20ClN2O3 [M+H]+ 299. found 299. 1H NMR: (400 MHz, CDCl3) δ 8.67 (s, 2H), 3.63 (s, 3H), 2.22-2.16 (m, 1H), 2.07-1.97 (m, 2H), 1.86-1.83 (m, 2H), 1.52 (s, 3H), 1.46-1.19 (m, 6H).

reactant | 5-chloro-2-iodopyrimidine | 0.83 mmol, 0.2 g | ClC=1C=NC(=NC1)I | C4H2ClIN2
reactant | methyl trans-4-acetylcyclohexanecarboxylate | 0.83 mmol, 0.15 g | C(C)(=O)[C@@H]1CC[C@H](CC1)C(=O)OC | C10H16O3
reactant | n-butyllithium | 0.83 mmol, 2.5 M, 0.33 mL | C(CCC)[Li]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | methyl trans-4-[1-(5-chloropyrimidin-2-yl)-1-hydroxyethyl]cyclohexanecarboxylate | ClC=1C=NC(=NC1)C(C)(O)[C@@H]1CC[C@H](CC1)C(=O)OC | C14H19ClN2O3
